US06509507B2
Synthesis of 2,5-Bishydroxymethyl-3′-(3,7-dimethyloctyloxy)biphenyl
LiAH4 (9.4 g, 248 mmol) and 300 ml of THF were placed in a reaction vessel under N2. At RT, dimethyl 2-(3′-(3,7-dimethyl-octyloxy)phenyl)terephthalate (75.5 g, 177 mmol), dissolved in 120 ml of THF, was then slowly added dropwise. The mixture was subsequently stirred for 4 hours under reflux. After cooling, excess LiAlH4 was carefully destroyed by addition of H2O. Half-concentrated H2SO4 (about 50 ml) was then carefully added dropwise. The mixture became very viscous during this addition. After stirring further for 1 hour, a clear solution and, at the bottom of the flask, a slimy gray precipitate could be seen. The clear solution was decanted off and the solvent was taken off. The precipitate which remained was stirred with plenty of water and ethyl acetate, the organic phase was separated off after filtration, the solvent was taken off and combined with the first organic phase. The combined organic phases were taken up in ethyl acetate and extracted five times with water. After drying over MgSO4, the solvent was taken off. The resulting oil was stirred a number of times with hexane and dried in an oil pump vacuum. The product was obtained as a pure, light yellow, highly viscous oil (54 g, 82%).

reactant | dimethyl 2-(3′-(3,7-dimethyl-octyloxy)phenyl)terephthalate | 177 mmol, 75.5 g | CC(CCOC=1C=C(C=CC1)C1=C(C(=O)OC)C=CC(=C1)C(=O)OC)CCCC(C)C | C26H34O5
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 2,5-Bishydroxymethyl-3′-(3,7-dimethyloctyloxy)biphenyl | 54 g, 82% | OCC1=C(C=C(C=C1)CO)C1=CC(=CC=C1)OCCC(CCCC(C)C)C | C24H34O3
